US07074781B2
2A. L-trans-4-Hydroxyproline-N,N-dimethylamide hydrochloride
To a solution of BOC-hydroxyproline (2.99 g, 13.89 mmol) in dichloromethane (100 ml) were added N,N-diisopropylethylamine (3.7 ml, 21.24 mmol), 4-(dimethylamino)pyridine (1.74 g, 14.24 mmol), dimethylamine hydrochloride (1.72 g, 21.09 mmol) and WSCDI (3.17 g, 16.68 mmol). The mixture was stirred at room temperature for 30 hr. The mixture was diluted with dichloromethane (100 ml) and washed with 0.3M KHSO4, saturated sodium bicarbonate solution and brine, dried over MgSO4, and concentrated in vacuo to give a colourless gum. This crude material was taken up in 4N HCl/dioxan (50 ml) and stirred at room temperature for 1 hr and then concentrated in vacua. The residue was azeotroped with toluene and diethyl ether to give a white solid; yield 0.45 g (17%).

reactant | BOC-hydroxyproline | 13.89 mmol, 2.99 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@@H](O)C1 | C10H17NO5
reactant | N,N-diisopropylethylamine | 21.24 mmol, 3.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylamine hydrochloride | 21.09 mmol, 1.72 g | Cl.CNC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 14.24 mmol, 1.74 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | HCl dioxan | 4N, 50 ml | Cl.O1CCOCC1
product | L-trans-4-Hydroxyproline N,N-dimethylamide hydrochloride | C1[C@H](CN[C@@H]1C(=O)O)O.Cl.C[N-]C | InChI=1S/C5H9NO3.C2H6N.ClH/c7-3-1-4(5(8)9)6-2-3;1-3-2;/h3-4,6-7H,1-2H2,(H,8,9);1-2H3;1H/q;-1;/t3-,4+;;/m1../s1
